US05985306
cis-7-Methoxy-3-phenyl 4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane.
cis-4-(4-Hydroxyphenyl)-7-methoxy-3-phenylchromane (74.3 g) was dissolved in a mixture of toluene (700 ml), water (12 ml) and sodium hydroxide (24.3 g) by heating the mixture to 75° C. 2-Chloroethylpyrrolidin hydrochloride (46.2 g) was added in six portions at 75° C. with half an hour between each portion. After the last addition the mixture was heated at 75° C. for 4 hours. Water (1000 ml) was added and the mixture stirred until all salt was dissolved. The aqueous phase was separated and extracted with another portion of toluene (300 ml). The combined organic phases was dried over potassium carbonate and evaporated to an oil. The oil was dissolved in refluxing methanol (1000 ml) and the product crystallised by cooling in an ice bath.

reactant | cis-4-(4-Hydroxyphenyl)-7-methoxy-3-phenylchromane | 74.3 g | OC1=CC=C(C=C1)[C@@H]1[C@@H](COC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C22H20O3
reactant | sodium hydroxide | 24.3 g | [OH-].[Na+]
reactant | 2-Chloroethylpyrrolidin hydrochloride | 46.2 g | Cl.ClCCN1CCCC1
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 12 ml | O | H2O
solvent | Water | 1000 ml | O | H2O
product | cis-7-Methoxy-3-phenyl 4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H31NO3
